US07592456B2
2,3-Dibromopyridine (2.30 g, 9.7 mmol) in tetrahydrofuran (10 mL) was added to a solution of isopropyl magnesium chloride/lithium chloride (1M in tetrahydrofuran, 10 mL, prepared according to the method of Krasovskiy and Knochel, Angew. Chem. Int. Ed. 2004, 43, 3333-3336) at approximately −15° C. under nitrogen. This mixture was cooled to −78° C. and cyclobutanone (0.74 mL, 9.9 mmol) added. It was stirred for 1 hour before allowing to warm to 0° C. for a further 1 hour then quenched with saturated ammonium chloride solution. Water (150 mL) was added and extracted with diethyl ether (2×75 mL). These extracts were washed with water and brine then dried (MgSO4), filtered and the solvent removed in vacuo. Purification by flash column chromatography eluting with a 0-10% diethyl ether/dichloromethane gradient gave 1-(2-bromopyridin-3-yl)cyclobutanol (0.57 g, 26%). 1H NMR (400 MHz, CDCl3) δ 8.28 (1H, dd, J=1.9, 4.7 Hz), 7.68 (1H, dd, J=1.9, 7.6 Hz), 7.30-7.26 (1H, m), 3.00 (1H, s), 2.70-2.60 (2H, m), 2.55-2.47 (2H, m), 2.30-2.16 (1H, m), 1.77-1.65 (1H, m); m/z (ES+) 228, 230 [MH+].

reactant | 2,3-Dibromopyridine | 9.7 mmol, 2.30 g | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | isopropyl magnesium chloride lithium chloride | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | cyclobutanone | 9.9 mmol, 0.74 mL | C1(CCC1)=O | C4H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(2-bromopyridin-3-yl)cyclobutanol | 0.57 g, 26% | BrC1=NC=CC=C1C1(CCC1)O | C9H10BrNO
